### PR TITLE
The results of my internship

### PR DESCRIPTION
**Pull request by AextraT**
M Types in the case of Sets

### CODE REVIEW

**Review by rmatthes — COMMENTED** [review]
only on omega-continuity

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 1]
```diff
@@ -0,0 +1,291 @@
...
+    (p : f = g)
+    : h ∘ f = h ∘ g.
+  Proof.
+    use funextfun.
+    apply homotfun.
+    induction p.
+    apply homotrefl.
+  Qed.
+
+  Lemma rev_proof {X : UU} {x y : X} (q : x = y) : y = x.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v:48]: this is in the library as pathsinv0, please use that one

**Review by rmatthes — COMMENTED** [review]
various comments on different files

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+Local Definition B : pr1hSet A -> SET :=
+  λ a, match a with
+       | ii1 _ => emptyset
+       | ii2 _ => setcoprod unitset unitset
+       end.
+
+Local Definition F := MWithSets.F B.
+Local Definition F' := MWithSets.F' B.
+
+(* The final coalgebra obtained corresponds to the type of possibly infinite binary trees labeled with booleands. *)
```
Comment (rmatthes) [inline UniMath/Induction/M/BinaryBooleanMTrees.v:41]:
```suggestion
(* The final coalgebra obtained corresponds to the type of possibly infinite binary trees labeled with booleans. *)
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+Local Definition C' := pr1 (GetMType_HSET B).
+Local Definition C'_isfinal := pr2 (GetMType_HSET B).
+
+Local Definition C'1 := ComputationalMWithSets.C' B C' C'_isfinal.
+Local Definition C'1_isfinal : isTerminal (CoAlg_category F') C'1 := ComputationalMWithSets.finalC' B C' C'_isfinal.
+Local Definition corec_C1 := ComputationalMWithSets.corecC B C' C'_isfinal.
+Local Definition c1 := pr11 C'1.
```
Comment (rmatthes) [inline UniMath/Induction/M/BinaryBooleanMTrees.v:48]: Also in this part, I would hope for some more types.

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+Local Definition destr_c1 := pr2 C'1.
+
+Lemma Get_list_at_depth (t : c1) (depth : nat) : list bool.
+Proof.
+  assert (l : list c1). (* List of subtrees at given depth *)
```
Comment (rmatthes) [inline UniMath/Induction/M/BinaryBooleanMTrees.v:53]: In the time of the UniMath schools, this assert would not have worked because that list would not have been available in the sequel. The way out was transparent assert. Rocq has moved on...

**Comment by rmatthes** [comment]
I comment on the adjunction part: what is the advantage of having the dedicated file  `FunctorCoalgebras_legacy_alt_HSET.v` ? Of course, this is then in parallel with the UU version. But the notion of morphism is not essentially changed w.r.t. `FunctorCoalgebras.CoAlg_category F'`. And being so inessential can be expressed by having weakly equivalent hom types, as follows:
```
Definition cat2_not_really_a_variant_of_coalgHSET (C1 C2 : cat2): cat2⟦C1, C2⟧ ≃ FunctorCoalgebras.CoAlg_category F' ⟦C1, C2⟧.
    Proof.
      use weq_iso.
      - intros [f Hyp].
        exists f.
        apply funextfun.
        intro x.
        simple refine (factor_through_squash _  _ (Hyp x)).
        + apply setproperty.
        + trivial.
      - intros [f Hyp].
        exists f.
        intro x.
        apply hinhpr.
        apply (toforallpaths _ _ _ Hyp).
      - intros [f Hyp].
        use total2_paths_f.
        + apply idpath.
        + show_id_type.
          assert (aux : isaprop TYPE).
          { apply impred.
            intro x.
            apply isapropishinh.
          }
          apply aux.
      - intros [f Hyp].
        use total2_paths_f.
        + apply idpath.
        + show_id_type.
          set (is_set := isaset_forall_hSet (pr11 C1) (λ _, F' (pr1 C2))).
          apply is_set.
    Defined.
```
I do not claim that this proof is exemplary. I think, minimally you should say that this definition was there only for convenience in something that is anyway more of an illustration. You could say that this produces a weakly equivalent notion of morphisms of coalgebras. But I suspect it would be easy enough to replace `cat2` by just the ordinary one and adapt the reasoning.
